US05331006
Preparation of α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosine
To a stirred solution of methyl α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)-carbonyl]-DL-tyrosinate (1.10 g, 0.0023 mol) in 8.8 mL dioxane and 4.4 mL water, lithium hydroxide monohydrate (0.145 g, 0.003 mmol, 1.5 eq) was added. This reaction mixture was then stirred for 48 hours at room temperature. The reaction mixture was then concentrated in vacuo and the resulting white syrup was diluted with 20 mL H2O. Thisbasic solution (pH 13) was then acidified (pH 2) with 1 mL 10% HCl, upon which white solid precipitated. This acidified aqueous suspension was thenextracted three times each with ether. The combined organic layers were dried (Na2SO4) and concentrated in vacuo to give the desired product (0.78 g, 0.0016 mmol, 73%). MS: 464.3 (MH+); 463.3 (M+).

reactant | methyl α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)-carbonyl]-DL-tyrosinate | 0.0023 mol, 1.10 g | CC(NC(=O)OC1C2CC3CC(CC1C3)C2)(CC2=CC=C(C=C2)OCC2=CC=CC=C2)C(=O)OC | C29H35NO5
reactant | lithium hydroxide monohydrate | 0.003 mmol, 0.145 g, 1.5 eq | O.[OH-].[Li+]
solvent | dioxane | 8.8 mL | O1CCOCC1 | C4H8O2
solvent | water | 4.4 mL | O | H2O
product | α-methyl-O-(phenylmethyl)-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosine | 0.0016 mmol, 0.78 g, 73% | CC(NC(=O)OC1C2CC3CC(CC1C3)C2)(CC2=CC=C(C=C2)OCC2=CC=CC=C2)C(=O)O | C28H33NO5
